US07846956B2
8.45 g of ethyl 5-amino-1-t-butyl-1H-pyrazole-4-carboxylate was dissolved in 60 ml of acetic acid, and 7.93 g of 2,5-dimethoxytetrahydrofuran was then added. The mixture was heated to reflux for 2 hours. The reaction mixture was concentrated under reduced pressure. After water was added, the residue was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 8.95 g of ethyl 5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazole-4-carboxylate.

reactant | ethyl 5-amino-1-t-butyl-1H-pyrazole-4-carboxylate | 8.45 g | NC1=C(C=NN1C(C)(C)C)C(=O)OCC | C10H17N3O2
reactant | 2,5-dimethoxytetrahydrofuran | 7.93 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazole-4-carboxylate | 8.95 g | N1(C=CC=C1)C1=C(C=NN1C(C)(C)C)C(=O)OCC | C14H19N3O2
